US05124482
Jones reagent (chromium trioxide-sulfuric acid-water), 3.8 mL (97.6 mmol), is added dropwise to a 0° C. solution of (±)-cis-6-(2-oxoethyl)-1,3-dioxane-4-acetonitrile, 1.29 g (7.6 mmol), dissolved in 50 mL of acetone until the orange color is not discharged. After stirring a further 15 minutes, the mixture is poured into 300 mL of diethyl ether and washed with brine until the aqueous washes are colorless. The diethyl ether layer is dried (magnesium sulfate), filtered, and concentrated to provide 1.2 g of (±)-cis-6-(cyanomethyl)-1,3-dioxane-4-acetic acid as a colorless solid.

reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | (±)-cis-6-(2-oxoethyl)-1,3-dioxane-4-acetonitrile | O=CC[C@@H]1C[C@@H](OCO1)CC#N | C8H11NO3
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (±)-cis-6-(cyanomethyl)-1,3-dioxane-4-acetic acid | 1.2 g | C(#N)C[C@@H]1C[C@@H](OCO1)CC(=O)O | C8H11NO4
